US04452791
A. 3-(1-Triphenylmethylimidazol-2-yl)-1-(tetrahydropyran-2-yloxy)propane
A solution of 310 mg (1 mmol) of 1-triphenylmethylimidazole (K H. Buchel et al.; Drugs Made in Germany, 1972, 15, 77) in 12 ml of dry THF is cooled to 0° under nitrogen and treated with 0.647 ml (1.1 mmol) of 1.7 M solution of n-BuLi in hexane. The solution is stirred at room temperature for 1 hour, then recooled to 0° and treated with 405 mg (1.5 mmol) of 1-iodo-3-(tetrahydropyran-2-yloxy)propane dissolved in 2 ml of dry THF. The reaction mixture is allowed to warm to room temperature overnight, then poured into water and extracted with ethyl acetate. The organic extract is rinsed with brine and dried (MgSO4). Removal of solvents in vacuo affords the title A compound.

reactant | 1-triphenylmethylimidazole | 1 mmol, 310 mg | C1(=CC=CC=C1)C(N1C=NC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H18N2
reactant | n-BuLi | [Li]CCCC
reactant | 1-iodo-3-(tetrahydropyran-2-yloxy)propane | 1.5 mmol, 405 mg | ICCCOC1OCCCC1 | C8H15IO2
reactant | water | O | H2O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-(1-Triphenylmethylimidazol-2-yl)-1-(tetrahydropyran-2-yloxy)propane | C1(=CC=CC=C1)C(N1C(=NC=C1)CCCOC1OCCCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H32N2O2
